US08026234B2
Compound 35: 4-(9-Cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylazetidin-3-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-methylazetidin-3-amine hydrochloride. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.18-1.82 (m, 12H) 2.32 (s, 3H) 3.10 (s, 3H) 3.62 (s, 2H) 3.95 (s, 3H) 4.06 (t, J=13.4 Hz, 2H) 4.47 (m, 1H) 4.45 (d, J=6.8 Hz, 1H) 7.49 (d, J=8.1 Hz, 1H) 7.53 (s, 1H) 7.90 (s., 1H) 8.21 (s, 1H) 8.28 (d, J=8.1 Hz, 1H) 8.65 (d, J=5.8 Hz, 1H). [M+H] calc'd for C26H33F2N7O3, 530. found 530.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methylazetidin-3-amine hydrochloride | Cl.CN1CC(C1)N
product | 4-(9-Cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylazetidin-3-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CN(C1)C)C=C2)OC | C26H33F2N7O3
